US04742052
To a mixture of 4-carboxy-4-methylvaleric acid p-methoxybenzyl ester (35.43 g) and triethylamine (14.14 g) in dry tetrahydrofuran (167 ml) was added dropwise a solution of ethyl chloroformate (15.23 g) in dry tetrahydrofuran (50 ml) with ice-cooling, and the mixture was stirred at 0° C. for 15 minutes. The precipitate was removed by filtration, and the filtrate was added dropwise to sodium azide (7.4 g) in water (67 ml) at a temperature up to 0° C. with stirring, followed by stirring for 30 minutes at the same temperature. The reaction mixture was diluted with benzene (200 ml) and the aqueous layer was extracted with benzene (100 ml). The combined benzene solution was washed with water, dried over anhydrous sodium sulfate and allowed to stand overnight at room temperature. After concentration to a volume of 100 to 120 ml in vacuo at a temperature below 30° C., the solution was stirred for 1 hour at 80° to 90° C. and evaporated to give an oily residue. p-Nitrobenzyl alcohol (23.32 g) and dry dioxane (22 ml) was added to the residue and the mixture was stirred for 7 hours at 120° to 130° C. and evaporated in vacuo to give an oily residue which was then purified by silica gel chromatography to give 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid p-methoxybenzyl ester.

reactant | 4-carboxy-4-methylvaleric acid p-methoxybenzyl ester | 35.43 g | COC1=CC=C(COC(CCC(C)(C)C(=O)O)=O)C=C1 | C15H20O5
reactant | triethylamine | 14.14 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 15.23 g | ClC(=O)OCC | C3H5ClO2
reactant | p-Nitrobenzyl alcohol | 23.32 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
solvent | tetrahydrofuran | 167 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dioxane | 22 ml | O1CCOCC1 | C4H8O2
product | 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid p-methoxybenzyl ester | COC1=CC=C(COC(CCC(C)(NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C)=O)C=C1 | C22H26N2O7
